US08044050B2
2-(4-Fluoro-phenyl)-7-hydroxy-imidazo[1,2-a]pyrimidine-6-carboxylic acid ethyl ester
2-Bromo-1-(4-fluoro-phenyl)ethanone (200.1 mg, 0.922 mmol), ethyl-diisopropylamine (160.6 μl, 0.922 mmol) and 2-amino-4-hydroxy-pyrimidine-5-carboxylic acid ethyl ester (168.9 mg, 0.922 mmol) were heated under reflux in 50 ml dioxane for 8.5 hours. The mixture was evaporated. Ethyl acetate and water were added, the organic layer was separated, washed with water, dried and evaporated. The crude product was purified by preparative HPLC (RP18, acetonitrile/water 0.1% TFA) to yield 11 mg (4%) of the desired product. MS (mass spectrum): M+H+=302.11.

reactant | 2-Bromo-1-(4-fluoro-phenyl)ethanone | 0.922 mmol, 200.1 mg | BrCC(=O)C1=CC=C(C=C1)F | C8H6BrFO
reactant | ethyl-diisopropylamine | 0.922 mmol, 160.6 μl | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 2-amino-4-hydroxy-pyrimidine-5-carboxylic acid ethyl ester | 0.922 mmol, 168.9 mg | C(C)OC(=O)C=1C(=NC(=NC1)N)O | C7H9N3O3
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 2-(4-Fluoro-phenyl)-7-hydroxy-imidazo[1,2-a]pyrimidine-6-carboxylic acid ethyl ester | 11 mg, 4% | C(C)OC(=O)C=1C(=NC=2N(C1)C=C(N2)C2=CC=C(C=C2)F)O | C15H12FN3O3
